US04065290
3-(3-methoxyphenyl)-1-methyl-5-phenyl-4-piperidinone
A 54 g. portion of 1-(3-methoxyphenyl)-3-phenyl-2-propanone was reacted with ethyl formate and methylamine hydrochloride as described in Examples 1-3 to prepare 10 g. of 3-(3-methoxyphenyl)-1-methyl-5-phenyl-4(1H)-pyridinone, which was reduced with 2 g. of lithium aluminum hydride. The reaction mixture was worked up as in the examples above and chromatographed over a silica gel column. About 1.4 g. of a mixture of the compounds of Examples 24 and 25 was obtained, an oil which was identified by mass spectroscopy as having a molecular weight of 293. About 1.3 g. of the piperidinone of Example 26 was recovered, which had an indicated molecular weight of 295 by mass spectroscopy.

reactant | 1-(3-methoxyphenyl)-3-phenyl-2-propanone | COC=1C=C(C=CC1)CC(CC1=CC=CC=C1)=O | C16H16O2
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | methylamine hydrochloride | Cl.CN
reactant | 3-(3-methoxyphenyl)-1-methyl-5-phenyl-4(1H)-pyridinone | COC=1C=C(C=CC1)C1=CN(C=C(C1=O)C1=CC=CC=C1)C | C19H17NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3-(3-methoxyphenyl)-1-methyl-5-phenyl-4-piperidinone | COC=1C=C(C=CC1)C1CN(CC(C1=O)C1=CC=CC=C1)C | C19H21NO2
